US05338719
Similarly by using diethyl bromomethylmalonate in place of diethyl bromomalonate, and carrying out the reaction with 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenol, 5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitrophenol or 5-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)-2-nitrophenol, diethyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]-2-methylmalonate (IV-2), diethyl 2-[5-(2,6-dichloro-4-trifluoromethylphenoxy)- 2-nitrophenxoy]-2-methylmalonate (IV-3) and diethyl 2-[5-(2-chloro-6-fluoro-4-trifluoro methylphenoxy)-2-nitrophenoxy]-2-methylmalonate (IV-4) were obtained. The physical properties of these compounds are shown in Table 2.

reactant | diethyl bromomethylmalonate | BrCC(C(=O)OCC)C(=O)OCC | C8H13BrO4
reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenol | ClC1=C(OC=2C=CC(=C(C2)O)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H7ClF3NO4
reactant | 5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitrophenol | ClC1=C(OC=2C=CC(=C(C2)O)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)Cl | C13H6Cl2F3NO4
reactant | 5-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)-2-nitrophenol | ClC1=C(OC=2C=CC(=C(C2)O)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)F | C13H6ClF4NO4
reactant | diethyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]-2-methylmalonate | ClC1=C(OC=2C=CC(=C(OC(C(=O)OCC)(C(=O)OCC)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C21H19ClF3NO8
product | diethyl 2-[5-(2-chloro-6-fluoro-4-trifluoro methylphenoxy)-2-nitrophenoxy]-2-methylmalonate | ClC1=C(OC=2C=CC(=C(OC(C(=O)OCC)(C(=O)OCC)C)C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)F | C21H18ClF4NO8
